Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
hydrocodone
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
=============================================================  
ONCOLOGY HOSPITALIST ADMISSION NOTE
=============================================================
DATE: ___
TIME: 0630

PRIMARY ONCOLOGIST: Dr. ___

PRIMARY DIAGNOSIS: Metastatic Neuroendocrine Tumor

TREATMENT REGIMEN: FOLFIRI (C3D1 ___

CC: ___ Pain

HISTORY OF PRESENTING ILLNESS:
Ms. ___ is a ___ female with history of
metastatic neuroendocrine tumor of the rectum with disease
progression on chemotherapy, multiple admission for abdominal
pain, hepatitis B, HIV, and pulmonary embolism on lovenox who
presents with acute on chronic abdominal pain.

Patient was seen in the ED last week for similar complaints. She
had a CT scan during this visit which was stable/improved. Her
pain was improved with IV dilaudid. She was discharged home and
had been doing well. However, she reports worsening abdominal
pain which started ___ afternoon and has increased
throughout the day. She describes the pain as crampy and feels
similar to her prior episodes of pain. She has not had a bowel
movement for the past 7 days. She reports taking colace, senna,
miralax, bisacodyl, and lactulose without effect. She reports
some blood in her bowel movements. She has some nausea but no
vomiting. She also notes worsening of her left hip pain.

On arrival to the ED, initial vitals were 97.1 85 118/81 16 100%
RA. No exam documented. Labs were notable for WBC 10.4, H/H
9.9/31.2, Plt 163, Na 133, K 4.6, BUN/Cr ___, ALT 445, AST 75,
ALP 227, Tbili 0.4, lipase 9, lactate 2.7, and UA negative. 
Blood
and urine cultures were obtained. CT abdomen/pelvis was negative
for acute process. Patient was given morphine 4mg IV x 3, Zofran
4mg IV, and 1L NS. Prior to transfer vitals were 97.6 87 ___ 97% RA.

On arrival to the floor, patient reports ___ abdominal pain. 
She
denies fevers/chills, night sweats, headache, vision changes,
dizziness/lightheadedness, weakness/numbnesss, shortness of
breath, cough, hemoptysis, chest pain, palpitations, vomiting,
diarrhea, hematemesis, dysuria, hematuria, and new rashes.

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
The patient is a ___ woman with previously treated
high-grade neuroendocrine tumor of the rectum in ___
treated in ___.

___ a mass that was found in her rectum/anus. She states
she initially presented with a hemorrhoid and constipation and
the mass was found on exam. She was diagnosed ___ and treated
with carboplatin/etoposide through ___ with complete
resolution. Patient had local recurrence in ___ and was
treated with topotecan for 3 cycles followed by radiation 
therapy
from ___. She received an additional cycle of
topotecan on ___. PET/CT on ___ showed new liver mets and
presacral soft tissue mass. She was then started on CAV for 2
cycles (___). She states that she did not have
any follow-up imaging after that point.

She left ___ and did not have follow up with any oncologic
providers since. Her port remained in place.

In ___ she presented to ___. She
underwent CT scan there where she was found to have multiple
liver lesions. She underwent biopsy which per discharge 
summaries
at ___ states the findings were consistent with "small cell
carcinoma."

She was experiencing new lower abdominal, back and sacral pain
with radiculopathy down the left leg and presented to ___ for the symptoms and an MRI was obtained which showed a
5.1 x 3.4 x 3.4 cm left presacral mass at S1 and an S2.  She was
prescribed oxycodone and hydromorphone q 4 hours and then sent 
to
twice daily MC for evaluation.

She was admitted from ___ - ___ with new PE and
liver metastasis which were biopsy confirmed as high-grade
neuroendocrine carcinoma.

She was treated with carboplatin and etoposide on ___ with a
dose of Neupogen on ___. Due to chronic HIV/HPV she was
started on Dolutegravr, Truvada, Entecavir per ID. Radiation
oncology evaluated her and due to her prior radiation could not
safely implement sacral radiation.

Cycle #: 2 Day 1: ___ Carboplatin 4AUC and Etoposide 80
mg/m2

___: Stopped Carboplatin and Etoposide due to tumor
progression.

___: Started on FOLFIRI chemotherapy, C1D1
___: Missed C1D15 of FOLFIRI due to cough and URI.
___: Received C1D1 of FOLFIRI chemo. She has missed 
multiple
chemotherapy sessions due to her hospitalizations and overall
health.
___: C3D1 FOLFIRI
___: Plan was to receive C1D1 Docetaxel after CT scan 
showed
tumor progression. However, patient had uncontrolled pain and
went to the ED  before chemotherapy could be administered.

PAST MEDICAL HISTORY:
- Neuroendocrine carcinoma of rectum, as above
- PE diagnosed in ___ on Lovenox
- GERD
- HIV ___ years
- HBV
- s/p C-section
- s/p hernia repair
 
Social History:
___
Family History:
No known family history of cancer. Mother still alive, 5 
siblings. Father died in ___.
 
Physical Exam:
VS: 98.6 PO 97 / 66 95 16 100 Ra
GENERAL: In no distress, resting in bed.
HEENT: Anicteric, EOMI, OP clear.
CARDIAC: RRR, normal s1/s2.
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally.
ABD: Soft, mild TTP, firm epigastric area 
EXT: WWP, no ___
NEURO: A&Ox3, no focal deficits.
SKIN: No significant rashes.
ACCESS: Right chest wall port intact
 
Pertinent Results:
___ 05:25AM BLOOD WBC-9.5 RBC-3.06* Hgb-9.7* Hct-31.1* 
MCV-102* MCH-31.7 MCHC-31.2* RDW-17.8* RDWSD-65.7* Plt ___
___ 12:40AM BLOOD WBC-10.4* RBC-3.10* Hgb-9.9* Hct-31.2* 
MCV-101* MCH-31.9 MCHC-31.7* RDW-17.8* RDWSD-65.2* Plt ___
___ 05:25AM BLOOD Glucose-88 UreaN-6 Creat-0.9 Na-137 K-4.8 
Cl-100 HCO3-21* AnGap-16
___ 12:40AM BLOOD Glucose-118* UreaN-8 Creat-1.0 Na-133* 
K-4.6 Cl-96 HCO3-22 AnGap-15
___ 05:25AM BLOOD ALT-41* AST-72* AlkPhos-237* TotBili-0.6
___ 12:40AM BLOOD ALT-45* AST-75* AlkPhos-227* TotBili-0.4
___ 05:25AM BLOOD Calcium-8.9 Phos-2.6* Mg-2.2
___ 12:46AM BLOOD Lactate-2.7*

ct abd/pelv w/ contrast ___
FINDINGS: LOWER CHEST: Central venous catheter is seen 
terminating in the low SVC. Solid nodule within the right middle 
lobe is unchanged (series 2, image 1). No focal consolidations. 
No pleural or pericardial effusion. ABDOMEN: HEPATOBILIARY: 
Innumerable hepatic metastases are visualized, some of which 
appear centrally necrotic, grossly unchanged compared to the 
prior examination. There is no evidence of intrahepatic or 
extrahepatic biliary dilatation. The gallbladder is within 
normal limits. PANCREAS: The pancreatic body and tail are 
severely atrophic. The pancreatic head is unremarkable in 
appearance without focal lesions or ductal dilatation. No 
peripancreatic stranding. SPLEEN: The spleen shows normal size 
and attenuation throughout, without evidence of focal lesions. 
ADRENALS: The right and left adrenal glands are normal in size 
and shape. URINARY: The kidneys are of normal and symmetric size 
with normal nephrogram. There is no evidence of focal renal 
lesions or hydronephrosis. There is no perinephric abnormality. 
GASTROINTESTINAL: Known rectal mass appears unchanged in size 
measuring 2.7 x 2.4 cm in maximum axial ___ (series 2, 
image 85). The stomach is unremarkable. Small bowel loops 
demonstrate normal caliber, wall thickness, and enhancement 
throughout. Extensive fecal loading within the right colon. 
Otherwise, the colon is within normal limits. The appendix is 
not visualized. PELVIS: The urinary bladder and distal ureters 
are unremarkable. There is no free fluid in the pelvis. 
REPRODUCTIVE ORGANS: Fibroid uterus is re-demonstrated. No 
adnexal masses. LYMPH NODES: There is extensive lymphadenopathy 
within the porta hepatis, overall unchanged in size and bulk 
compared to prior. Small pelvic and inguinal lymph nodes are 
unchanged, for example series 2, image 65. VASCULAR: There is no 
abdominal aortic aneurysm. No atherosclerotic disease is noted. 
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. SOFT TISSUES: Stranding and nodularity within 
the anterior abdominal wall is likely due to injections. The 
abdominal and pelvic wall is within normal limits. 

IMPRESSION: 1. No acute abnormalities within the abdomen or 
pelvis. 2. Unchanged known rectal mass with extensive metastatic 
disease. 3. Large stool burden, slightly worse compared to 
prior.
 
Brief Hospital Course:
___ w/ metastatic neuroendocrine tumor of the rectum w/ disease 
progression on chemotherapy, multiple admission for abdominal 
pain, hepatitis B, HIV, and PE on lovenox who p/w acute on 
chronic abdominal pain.

# Acute on Chronic Cancer-Related Abdominal Pain
# Opioid-Induced Constipation: 

Abdominal Pain likely secondary to malignancy with hepatic 
metastatic disease as well as constipation secondary to opioids 
with fecal loading noted on CT. No evidence of recurrent fluid 
collections. We continued methylnaltrexone which she responds to 
on prior admissions. She required two doses spread over 24 hrs 
for an effective BM. We uptitrated her bowel regimen as well. 
She was prescribed Movantik and I filled out a PA and submitted 
it to her insurance and pharmacy. 
She was also seen by palliative care.

[ ] oxycodone PRN STOPPED due to ineffective relief
[ ] she had sig relief w/ PO dilaudid and was discharged w/ 2 wk 
supply PRN
[ ] uptitrated senna to 4 tabs BID
[ ] discontinued colace as no better than placebo
[ ] uptitrated dose of lactulose
[ ] please f/u on Movantik PA already submitted to her insurance

- cont miralax BID
- Cont MS contin 30mg PO q12h
- Cont gabapentin 300 mg PO BID
- cont dulcolax prn
- f/u palliative care

# Metastatic Neuroendocrine Carcinoma: 
Metastatic to bone and liver. Progressed on multiple lines of 
chemotherapy. Plan was to move forward with more treatment with 
docetaxel.
- Follow-up with outpatient Oncology
- Patient also due to zometa at next visit
- Ongoing goals of care discussion and consideration of hospice 
given disease progression and significant pain with multiple 
inpatient admissions

# Hepatitis B
# HIV
- Continue home dolutregravir and Truvada
- Continue home bactrim
- Several family members not aware of her HIV status

# Poor Appetite
- Continue megace
- She reports no longer taking reglan QID

# Pulmonary Embolism
[ ] due to weight loss now at 60 kg, home lovenox 70 mg 
decreased to 60 mg

# Orthostatic Hypotension
- Continue home midodrine 5mg daily

# GERD: Repeat H. pylori stool antigen from last admission
negative.
- Continue home omeprazole and ranitidine

# Anxiety
- Continue home lorazepam 0.5mg daily PRN

# Anemia: Stable. No evidence of active bleeding.
- Trend H/H daily

# Leukocytosis: Stable from last week. ___ be secondary to
malignancy.
- Follow-up cultures
- Trend fever curve

FEN: Regular, IVF/Encourage PO, Replete Electrolytes PRN
PPX: Therapeutic Lovenox
ACCESS: POC
DISPO: Home
BILLING: >30 min spent coordinating care for discharge
____________________
___, D.O.
Heme/Onc Hospitalist
___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID 
2. Dolutegravir 50 mg PO DAILY 
3. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
4. Enoxaparin Sodium 70 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
5. Gabapentin 300 mg PO BID 
6. LORazepam 0.5 mg PO DAILY:PRN anxiety 
7. Megestrol Acetate 400 mg PO DAILY 
8. Midodrine 5 mg PO DAILY 
9. Morphine SR (MS ___ 30 mg PO Q12H 
10. Omeprazole 40 mg PO BID 
11. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
12. Polyethylene Glycol 17 g PO BID 
13. Ranitidine 150 mg PO BID 
14. Senna 17.2 mg PO BID 
15. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
16. Tizanidine 2 mg PO BID 
17. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
18. Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting 
19. Lactulose 15 mL PO Q8H:PRN constipation 
20. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
21. Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
reflux/abdominal pain 
22. hydrocortisone-pramoxine ___ % topical BID 
23. Dexamethasone 8 mg PO AS DIRECTED WITH CHEMOTHERAPY 

 
Discharge Medications:
1.  Hydrocortisone (Rectal) 2.5% Cream ___ID:PRN 
hemorrhoids  
2.  HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *hydromorphone 2 mg ___ tablet(s) by mouth q3hrs prn Disp 
#*56 Tablet Refills:*0 
3.  Witch ___ 50% Pad 1 Appl PR QID:PRN hemorrhoids  
4.  Enoxaparin Sodium 60 mg SC Q12H 
RX *enoxaparin 60 mg/0.6 mL 60 mg subcutaneous q12hrs Disp #*60 
Syringe Refills:*0 
5.  Lactulose 30 mL PO Q4H:PRN constipation  
6.  Polyethylene Glycol 17 g PO BID  
7.  Senna 34.4 mg PO BID 
RX *sennosides [senna] 8.6 mg 4 tabs by mouth twice a day Disp 
#*112 Tablet Refills:*0 
8.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
reflux/abdominal pain  
9.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
10.  Dexamethasone 8 mg PO AS DIRECTED WITH CHEMOTHERAPY  
11.  Dolutegravir 50 mg PO DAILY  
12.  Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY  
13.  Gabapentin 300 mg PO BID  
14.  hydrocortisone-pramoxine ___ % topical BID  
15.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
16.  Megestrol Acetate 400 mg PO DAILY  
17.  Midodrine 5 mg PO DAILY  
18.  Morphine SR (MS ___ 30 mg PO Q12H  
19.  Omeprazole 40 mg PO BID  
20.  Prochlorperazine 10 mg PO Q6H:PRN nausea/vomiting  
21.  Ranitidine 150 mg PO BID  
22.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
23.  Tizanidine 2 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Opiate induced constipation
metastatic neuroendocrine tumor of the rectum

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure caring for you in the hospital. You were 
admitted for abdominal pain and found to have severe 
constipation. You felt better with the subcutaneous injections 
of methylnaltrexone and aggressive bowel regimen. You also had 
better pain relief with oral dilaudid. We adjusted your 
medications. Please follow up with your palliative care and 
oncology teams.

Happy holidays and wishing you a healthy and happy ___,
Your ___ team 
 
Followup Instructions:
___